US07291631B2
A stirred solution of 3-Tributylstannanyl-pyridine-2-carbaldehyde (256 mg, 0.65 mmol) and methyl 3-bromobenzoate (128 mg, 0.59 mmol) in DMF (2.1 mL) was degassed with Ar for 5 minutes, after which PdCl2(PPh3)2 (25 mg, 0.036 mmol) and CuO (34 mg, 0.43 mmol) was added and the mixture heated to 110° C. overnight. The reaction was cooled to room temperature, and diluted with saturated aqueous NaHCO3 (15 mL) and EtOAc (40 mL). The organic phase was separated, washed with brine (3×15 mL), dried (MgSO4), filtered, and concentrated under reduced pressure. Purification by flash chromatography on silica gel (Hexanes/EtOAc, 60:40) gave 3-(2-Formyl-pyridin-3-yl)-benzoic acid methyl ester (25 mg, 17%) as a white solid. 1H NMR (CDCl3) δ 3.92 (s, 3H), 7.47-7.56 (m, 2H), 7.58 (d, 1H, J=4.9 Hz), 8.03 (s, 1H), 8.07-8.20 (m, 1H), 8.86 (dd, 1H, J=4.9, 1.8 Hz), 10.08 (s, 1H).

reactant | 3-Tributylstannanyl-pyridine-2-carbaldehyde | 0.65 mmol, 256 mg | C(CCC)[Sn](C=1C(=NC=CC1)C=O)(CCCC)CCCC
reactant | methyl 3-bromobenzoate | 0.59 mmol, 128 mg | BrC=1C=C(C(=O)OC)C=CC1 | C8H7BrO2
solvent | DMF | 2.1 mL | CN(C)C=O | C3H7NO
solvent | NaHCO3 | 15 mL | C(=O)(O)[O-].[Na+]
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
catalyst | PdCl2(PPh3)2 | 0.036 mmol, 25 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(2-Formyl-pyridin-3-yl)-benzoic acid methyl ester | 25 mg, 17% | COC(C1=CC(=CC=C1)C=1C(=NC=CC1)C=O)=O | C14H11NO3
